US09428495B2
To a stirred solution of (3R,5S)-tert-butyl 3-(hydroxymethyl)-5-methylpiperidine-1-carboxylate (0.783 g, 3.385 mmol) in DCM (5 mL) was added p-toluenesulfonyl chloride (0.968 g, 5.078 mmol) followed by DMAP (40 mg, 0.33 mmol) and DIPEA (1.18 mL, 6.77 mmol) at rt. The reaction mixture was stirred at rt for 3 h after which time water (5 mL) was added followed by stifling an additional 15 min. The resultant organic layer was washed with 0.1 N HCl (5 mL), brine (3 mL), dried over MgSO4, filtered and concentrated to dryness. The crude product was purified over silica gel (Biotage, eluting with 3:1 heptanes: EtOAc) to provide (3S,5R)-tert-butyl 3-methyl-5-((tosyloxy)methyl)piperidine-1-carboxylate (0.8602 g, 2.232 mmol, 65.9% yield).

reactant | (3R,5S)-tert-butyl 3-(hydroxymethyl)-5-methylpiperidine-1-carboxylate | 3.385 mmol, 0.783 g | OC[C@H]1CN(C[C@H](C1)C)C(=O)OC(C)(C)C | C12H23NO3
reactant | p-toluenesulfonyl chloride | 5.078 mmol, 0.968 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | DIPEA | 6.77 mmol, 1.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 5 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.33 mmol, 40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (3S,5R)-tert-butyl 3-methyl-5-((tosyloxy)methyl)piperidine-1-carboxylate | 2.232 mmol, 0.8602 g, 65.9% yield | C[C@@H]1CN(C[C@@H](C1)COS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C19H29NO5S
